US04160082
Kanamycin A sulphate (24.3 g., 0.03 mole) was dissolved in water (150 ml.) and the pH adjusted to 6 by the dropwise addition of 5N hydrochloric acid. Sodium cyanoborohydride (1.95 g., 0.03 mole) was added and the mixture was cooled to 0° C. and stirred while a solution of benzaldehyde (3.61 g., 0.033 mole) dissolved in methanol (15 ml.) was added slowly over the course of 2 1/2 hours. The mixture was allowed to warm to room temperature. After 16 hours the pH of the solution was adjusted to 5.5 by the addition of 1N hydrochloric acid and the solution was filtered and added to a column of Amberlite CG-50 ion-exchange resin in the ammonium-ion form. Elution first with water and then with a gradient of ammonium hydroxide of increasing concentration from 0-0.7N gave as major product 3-N-benzylkanamycin A contaminated with some 1-N-benzyl derivative (5.0 g., 28%) Rf 0.44 in methanol-chloroform-17% ammonium hydroxide 4:1:2. (Kanamycin A gave an Rf value of 0.15).

reactant | Kanamycin A sulphate | 0.03 mole, 24.3 g | C1[C@H]([C@@H]([C@H]([C@@H]([C@H]1N)O[C@@H]2[C@@H]([C@H]([C@@H]([C@H](O2)CN)O)O)O)O)O[C@@H]3[C@@H]([C@H]([C@@H]([C@H](O3)CO)O)N)O)N.OS(=O)(=O)O
reactant | hydrochloric acid | 5N | Cl | ClH
reactant | Sodium cyanoborohydride | 0.03 mole, 1.95 g | C(#N)[BH3-].[Na+]
reactant | benzaldehyde | 0.033 mole, 3.61 g | C(C1=CC=CC=C1)=O | C7H6O
reactant | hydrochloric acid | 1N | Cl | ClH
solvent | water | 150 ml | O | H2O
solvent | methanol | 15 ml | CO | CH4O
solvent | methanol chloroform | CO.C(Cl)(Cl)Cl
product | Kanamycin A | C1[C@H]([C@@H]([C@H]([C@@H]([C@H]1N)O[C@H]2[C@H]([C@@H]([C@H]([C@@H](O2)CN)O)O)O)O)O[C@@H]3[C@@H]([C@H]([C@@H]([C@H](O3)CO)O)N)O)N | C18H36N4O11
